US03995056
7.35 ml of a sulfochromic mixture titrating 26.5 g of chromic anhydride per 100 ml was added with stirring at 0° C to 7.8 g of 3-(3'-cyano-2'-hydroxypropyl)-benzhydrol in 78 ml of acetone and the mixture was allowed to stand at 0° C for 5 minutes and was then poured into water with stirring. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried over sodium sulfate, treated with activated carbon, filtered and evaporated to dryness to obtain 7.4 g of 3-(3'-cyano-2'-hydroxypropyl)-benzophenone which was used as is for the next step.

reactant | 3-(3'-cyano-2'-hydroxypropyl)-benzhydrol | C(#N)CC(CC=1C=C(C(C2=CC=CC=C2)O)C=CC1)O | C17H17NO2
reactant | water | O | H2O
solvent | acetone | 78 ml | CC(=O)C | C3H6O
product | 3-(3'-cyano-2'-hydroxypropyl)-benzophenone | 7.4 g | C(#N)CC(CC=1C=C(C(=O)C2=CC=CC=C2)C=CC1)O | C17H15NO2
